US07008950B1
1-Bromo-4-(4-morpholinyl)benzene
Bromine (10.8 g, 67.4 mmol) was added to a solution of 4-(4-morpholinyl)benzene (10.0 g, 61.3 mmol) in ethanol (100 mL) at 0° C., and the mixture was stirred for 1 hour at room temperature. Water (100 mL) was poured into the reaction mixture, which was then extracted twice with ethyl acetate. The organic layers were combined, washed with an aqueous saturated sodium hydrogencarbonate and water, then dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to obtain the title compound (10.7 g, yield 72%).

reactant | Bromine | 67.4 mmol, 10.8 g | BrBr | Br2
reactant | 4-(4-morpholinyl)benzene | 61.3 mmol, 10.0 g | N1(CCOCC1)C1=CC=CC=C1 | C10H13NO
reactant | Water | 100 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-Bromo-4-(4-morpholinyl)benzene | 10.7 g, yield 72% | BrC1=CC=C(C=C1)N1CCOCC1 | C10H12BrNO
